US08497368B2
6-(1-Ethoxyvinyl)-1,2,4-triazin-3-amine (81.2)
A solution of 6-bromo-1,2,4-triazin-3-amine (780 mg, 4.46 mmol) in N,N-dimethylformamide (50 mL) was treated with tetrakis(triphenylphosphine)palladium (0) (258 mg, 0.22 mmol), N,N-diisopropylethyl amine (2284 mg, 11.14 mmol), lithium chloride (661 mg, 15.6 mmol), and vinyltri-n-butyltin (2093 mg, 5.79 mmol), and the reaction was heated at 120° C. for 2 h. The reaction mixture was cooled to room temperature and concentrated the solvent in vacuo. The residue was diluted with dichloromethane and washed with aqueous KF solution. The crude product was purified by flash chromatography in silica gel eluting with a ethyl acetate/hexane gradient to afford 380 mg (51%) of the title compound as a yellow solid. 1H-NMR (400 MHz, CDCl3) δ ppm 8.48 (s, 1H), 5.41-5.39 (m, 3H), 4.36 (s, 1H), 3.98 (q, 2H), 1.43 (t, 2H).

reactant | 6-bromo-1,2,4-triazin-3-amine | 4.46 mmol, 780 mg | BrC1=CN=C(N=N1)N | C3H3BrN4
reactant | N,N-diisopropylethyl amine | 11.14 mmol, 2284 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | lithium chloride | 15.6 mmol, 661 mg | [Cl-].[Li+]
reactant | vinyltri-n-butyltin | 5.79 mmol, 2093 mg | C(=C)[Sn](CCCC)(CCCC)CCCC
reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | 0.22 mmol, 258 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(1-Ethoxyvinyl)-1,2,4-triazin-3-amine | 380 mg, 51% | C(C)OC(=C)C1=CN=C(N=N1)N | C7H10N4O
